US07767675B2
Step 1. 3-(4-bromo-2-fluorobenzyl)-1,3-oxazolidin-2-one
2-chloroethyl chloridocarbonate (114 μL, 1.1 mmol) was added to a mixture of 1-(4-bromo-2-fluorophenyl)methanamine hydrochloride (0.240 g, 1.0 mmol) and triethylamine (293 μL, 2.1 mmol). The mixture was stirred at RT for 3 h, and then 1M of potassium tert-butoxide in THF (1.2 mL) was added. The mixture was stirred overnight at RT, diluted with methylene chloride, washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the desired product which was directly used in next step without further purification. LCMS: (M+H)=275.9/273.9.

reactant | 2-chloroethyl chloridocarbonate | 1.1 mmol, 114 μL | C(CCl)OC(=O)Cl | C3H4Cl2O2
reactant | 1-(4-bromo-2-fluorophenyl)methanamine hydrochloride | 1.0 mmol, 0.240 g | Cl.BrC1=CC(=C(C=C1)CN)F
reactant | triethylamine | 2.1 mmol, 293 μL | C(C)N(CC)CC | C6H15N
reactant | potassium tert-butoxide | 1M | CC(C)([O-])C.[K+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(4-bromo-2-fluorobenzyl)-1,3-oxazolidin-2-one | BrC1=CC(=C(CN2C(OCC2)=O)C=C1)F | C10H9BrFNO2
